* File: load_inverter.pex.netlist.pex
* Created: Thu Jun 25 22:24:23 2020
* Program "Calibre xRC"
* Version "v2015.4_16.11"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_LOAD_INVERTER_A 3 7 9 12 15
c14 15 0 0.0100925f
c15 10 0 0.00403703f
c16 9 0 0.00951318f
c17 7 0 0.030798f
c18 3 0 0.0273667f
r19 15 16 80.1018
r20 12 15 0.54227
r21 9 16 5.73405
r22 9 10 0.477301
r23 5 10 5.3213
r24 5 7 39
r25 1 10 5.3213
r26 1 3 33.15
.ends

.subckt PM_LOAD_INVERTER_GND 1 3 10 11 18
c11 20 0 0.00319707f
c12 18 0 0.0143857f
c13 11 0 0.00788811f
c14 10 0 0.00708762f
c15 3 0 0.010162f
c16 1 0 0.0088205f
r17 16 20 0.2058
r18 16 18 0.746429
r19 12 20 0.00840123
r20 10 20 0.2058
r21 10 11 0.963571
r22 5 11 0.212696
r23 3 5 0.906154
r24 1 12 0.64
.ends

.subckt PM_LOAD_INVERTER_VDD 2 3 10 11 18
c11 20 0 0.0031884f
c12 18 0 0.0140621f
c13 11 0 0.0076944f
c14 10 0 0.00703396f
c15 3 0 0.0109807f
c16 2 0 0.0105763f
r17 16 20 0.217884
r18 16 18 0.935385
r19 12 20 0.000591796
r20 10 20 0.217884
r21 10 11 1.03769
r22 5 11 0.212317
r23 3 5 1.02308
r24 2 12 0.67
.ends

.subckt PM_LOAD_INVERTER_B 1 2 7
c6 1 0 0.0383739f
r7 2 7 1.09128
r8 1 7 1.07179
.ends

