* File: inverter.pex.netlist.pex
* Created: Mon Apr 13 22:21:10 2020
* Program "Calibre xRC"
* Version "v2015.4_16.11"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_INVERTER%INPUT 3 7 9 12 15
c14 15 0 0.0106015f
c15 10 0 0.00403703f
c16 9 0 0.00948491f
c17 7 0 0.0360352f
c18 3 0 0.0376606f
r19 15 16 80.1018
r20 12 15 0.54227
r21 9 16 5.73405
r22 9 10 0.477301
r23 5 10 5.3213
r24 5 7 42.9
r25 1 10 5.3213
r26 1 3 55.38
.ends

.subckt PM_INVERTER%GND 1 3 10 11 18
c11 20 0 0.00330496f
c12 18 0 0.0152689f
c13 11 0 0.00815957f
c14 10 0 0.00727612f
c15 3 0 0.0146198f
c16 1 0 0.014824f
r17 16 20 0.194962
r18 16 18 0.696667
r19 12 20 0.0157877
r20 10 20 0.194962
r21 10 11 0.899333
r22 5 11 0.213729
r23 3 5 1.52
r24 1 12 1.05
.ends

.subckt PM_INVERTER%VDD 2 3 10 11 18
c11 20 0 0.00333501f
c12 18 0 0.0151367f
c13 11 0 0.00830927f
c14 10 0 0.00725049f
c15 3 0 0.0154392f
c16 2 0 0.0165859f
r17 16 20 0.194962
r18 16 18 0.810667
r19 12 20 0.0157877
r20 10 20 0.194962
r21 10 11 0.899333
r22 5 11 0.213729
r23 3 5 1.63692
r24 2 12 1.09
.ends

.subckt PM_INVERTER%OUTPUT 1 2 7
c6 1 0 0.0495349f
r7 2 7 1.37385
r8 1 7 1.46154
.ends

